US04561451
1,4-Di(2-methylpropionyl)-2,6-dimethylpiperazine
The reaction of 5.7 g (0.05 mole) of 2,6-dimethylpiperazine with 13.85 g (0.13 mole) of 2-methylpropionyl chloride is carried out as described in Example VI, and yields 13.3 g of crude product as a solid. Recrystallization from acetone provides 7.1 g of the pure product: mp, 160°-161° C. An additional 4.0 g of pure product is obtained by concentrating the mother liquor and adding hexane. The assigned product structure is consistent with IR and NMR data.

reactant | 2,6-dimethylpiperazine | 0.05 mole, 5.7 g | CC1NC(CNC1)C | C6H14N2
reactant | 2-methylpropionyl chloride | 0.13 mole, 13.85 g | CC(C(=O)Cl)C | C4H7ClO
product | 1,4-Di(2-methylpropionyl)-2,6-dimethylpiperazine | 7.1 g | CC(C(=O)N1C(CN(CC1C)C(C(C)C)=O)C)C | C14H26N2O2
